US06858638B2
2-Methylsulfonyl-N-[3-(5-methoxy-1H-indol-2-yl)-1H-indazol-5-yl]benzenesulfonamide can be obtained as described in Example 47 from 1.77 g of tert-butyl 3-iodo-5-(N-tert-butoxycarbonyl-2-methylsulfonylbenzenesulfonylamino)-indazole-1-carboxylate, 1.52 g 1-(tert-butoxycarbonyl)-5-methoxy-indole-2-boronic acid, 70 ml of dimethyl-formamide, 5.65 ml of a saturated aqueous sodium hydrogencarbonate solution and 151 mg of tetrakis(triphenylphosphine)palladium[0]. 250 mg of 2-methylsulfonyl-N-[3-(5-methoxy-1H-indol-2-yl)-1H-indazol-5-yl]benzenesulfonamide are thus obtained in the form of an amorphous cream solid (LC/MS analysis: Tr 3.52 minutes MH+=497).

reactant | tert-butyl 3-iodo-5-(N-tert-butoxycarbonyl-2-methylsulfonylbenzenesulfonylamino)-indazole-1-carboxylate | 1.77 g | IC1=NN(C2=CC=C(C=C12)N(C(=O)OC(C)(C)C)S(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)C)C(=O)OC(C)(C)C | C24H28IN3O8S2
reactant | 1-(tert-butoxycarbonyl)-5-methoxy-indole-2-boronic acid | 1.52 g | C(C)(C)(C)OC(=O)N1C(=CC2=CC(=CC=C12)OC)B(O)O | C14H18BNO5
reactant | sodium hydrogencarbonate | 5.65 ml | C(O)([O-])=O.[Na+]
solvent | dimethyl-formamide | 70 ml | CN(C=O)C | C3H7NO
product | 2-methylsulfonyl-N-[3-(5-methoxy-1H-indol-2-yl)-1H-indazol-5-yl]benzenesulfonamide | 250 mg | CS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)NC=1C=C2C(=NNC2=CC1)C=1NC2=CC=C(C=C2C1)OC | C23H20N4O5S2
